US04021479
4-(2'-Chloro-4-biphenylyl)-4-hydroxy-butyric acid
A mixture of 5.44 gm (0.02 mol) of γ-(2'-chloro-4-biphenylyl)-γ-butyrolactone (b.p. 212°-213° C. at 0.03 mm Hg), 50 ml of methanol, 1 gm of sodium hydroxide and 2 ml of water was boiled for 2 hours. The reaction mixture was then evaporated, the residue was distributed between dilute hydrochloric acid and ethyl acetate, and the cyclohexylamine salt was precipitated from the washed and dried ethyl acetate solution. Yield: 5.8 gm m.p. of the cyclohexylamine salt: 158°-159° C. (from water).

reactant | γ-(2'-chloro-4-biphenylyl)-γ-butyrolactone | 0.02 mol, 5.44 gm | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C1CCC(=O)O1 | C16H13ClO2
reactant | methanol | 50 ml | CO | CH4O
reactant | sodium hydroxide | 1 gm | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 4-(2'-Chloro-4-biphenylyl)-4-hydroxy-butyric acid | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15ClO3
